US06756392B2
2-Chloro-nicotinic acid (2.86 g, 18.2 mmol), 1-hydroxybenzotriazole (3.0 g, 21.8 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.18 g, 21.8 mmol) were dissolved in N,N-dimethylformamide (50 ml) at room temperature and (4-aminomethyl-benzyl)-carbamic acid tert-butyl ester (4.29 g, 18.2 mmol) (see Preparation 1) added followed by addition of N-methyl morpholine (4 ml, 36.3 mmol). The reaction mixture was stirred under an atmosphere of nitrogen at room temperature for 18 hours, then partitioned between ethyl acetate (100 ml) and water (100 ml) and the organic layer separated. The organic layer was then washed with a saturated aqueous solution of sodium chloride (100 ml), dried over anhydrous magnesium sulphate and the solvent removed in vacuo. The residue was then triturated with diethylether (2-fold 10 ml) to give (4-{[(2-chloro-pyridine-3-carbonyl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester (6.71 g) as a white solid.

reactant | 2-Chloro-nicotinic acid | 18.2 mmol, 2.86 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 1-hydroxybenzotriazole | 21.8 mmol, 3.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 21.8 mmol, 4.18 g | Cl.CN(CCCN=C=NCC)C
reactant | (4-aminomethyl-benzyl)-carbamic acid tert-butyl ester | 18.2 mmol, 4.29 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN)=O | C13H20N2O2
reactant | N-methyl morpholine | 36.3 mmol, 4 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (4-{[(2-chloro-pyridine-3-carbonyl)-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester | 6.71 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC(=O)C=1C(=NC=CC1)Cl)=O | C19H22ClN3O3
